US04940710
7-[3-(5-Chloro-2-benzofuranyl)-4-methyl-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 150 mg portion of 7-[3-(5-chloro-2-benzofuranyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was suspended in 0.6 ml of 37% formaldehyde and 0.75 ml of 90% formic acid was added. The mixture was heated on a steam bath for 2 hours, then evaporated to dryness. A 5 ml portion of water was added, the pH adjusted to 7.0 with lN sodium hydroxide and the solid collected, washed with water and dried, giving 113 mg of the desired product, mp 248°-249° C.

reactant | 7-[3-(5-chloro-2-benzofuranyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC=1C=CC2=C(C=C(O2)C2CN(CCN2)C2=C(C=C3C(C(=CN(C3=C2)CC)C(=O)O)=O)F)C1 | C24H21ClFN3O4
reactant | formic acid | 0.75 ml | C(=O)O | CH2O2
solvent | formaldehyde | 0.6 ml | C=O | CH2O
product | 7-[3-(5-Chloro-2-benzofuranyl)-4-methyl-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 113 mg | ClC=1C=CC2=C(C=C(O2)C2CN(CCN2C)C2=C(C=C3C(C(=CN(C3=C2)CC)C(=O)O)=O)F)C1 | C25H23ClFN3O4
